US04310677
8.6 parts of 50 percent strength by weight sodium hydride are added to 14.7 parts of isatin in 250 parts of n-butanol and 100 parts of dimethylformamide at 25° C. After one hour, 8 parts of 50 percent strength by weight hydrogen peroxide solution are slowly added to the violet solution, and the temperature is allowed to rise to 50° C. The mixture is then stirred for one hour and is worked up as described in Example 1. 10.8 parts (56% of theory) of n-butyl anthranilate are obtained.

reactant | sodium hydride | [H-].[Na+]
reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | n-butanol | C(CCC)O | C4H10O
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | n-butyl anthranilate | 56% | C(C=1C(N)=CC=CC1)(=O)OCCCC | C11H15NO2
